US09428498B2
1-(4-Iodobenzoyl)-4-methylpiperazine
4-Iodobenzoic acid (500 mg, 2.02 mmol) and DMF (50 uL) were dissolved in DCM (24 mL), oxalyl chloride (0.18 mL, 2.12 mmol) was added drop-wise and the reaction mixture was stirred for 30 min. DIPEA (0.42 mL, 2.42 mmol) and a solution of N-methylpiperazine (222 mg, 2.22 mmol) in DCM (1 mL) were added and the reaction mixture was stirred for 30 min, washed with sat aq NaHCO3 (2×75 mL), dried (MgSO4) and concentrated in vacuo to give the title compound (660 mg, 99.2%) as a yellow solid. LCMS (ES+): 331.0 [MH]+. HPLC: Rt 4.05 min, 99.6% purity.

reactant | 4-Iodobenzoic acid | 2.02 mmol, 500 mg | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | oxalyl chloride | 2.12 mmol, 0.18 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DIPEA | 2.42 mmol, 0.42 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methylpiperazine | 2.22 mmol, 222 mg | CN1CCNCC1 | C5H12N2
solvent | DCM | 24 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 uL | CN(C)C=O | C3H7NO
product | 1-(4-Iodobenzoyl)-4-methylpiperazine | 660 mg, 99.2% | IC1=CC=C(C(=O)N2CCN(CC2)C)C=C1 | C12H15IN2O
